US05730902
Preparation of (R)-4-(trans-4-(5-methoxypentyl)-4-silacyclohexyl)-1-(2-fluorooctyl)-2,6-difluorobenzene
The general procedure of Example 18 was repeated using (R)-1-bromo-2-fluorooctane and (2,6-difluoro-4-(4-(5-methoxypentyl)-4-phenyl-4-silacyclohexyl)phenyl) trifluoromethanesulfonate, thereby obtaining the intended compound.

reactant | (R)-1-bromo-2-fluorooctane | BrC[C@@H](CCCCCC)F | C8H16BrF
reactant | (2,6-difluoro-4-(4-(5-methoxypentyl)-4-phenyl-4-silacyclohexyl)phenyl) trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1F)C1CC[Si](CC1)(C1=CC=CC=C1)CCCCCOC)F)(F)F | C24H29F5O4SSi
product | (R)-4-(trans-4-(5-methoxypentyl)-4-silacyclohexyl)-1-(2-fluorooctyl)-2,6-difluorobenzene | COCCCCC[Si@@H]1CC[C@H](CC1)C1=CC(=C(C(=C1)F)C[C@@H](CCCCCC)F)F | C25H41F3OSi
